* source LAB8
C_C1         N07578 N07655  10u   
V_V22         N11363 0  
+PULSE 10 -10 0 1n 1n 0.01 0.02
M_M4         N03828 N02776 N02832 N02832 M2N7000
V_V20         N11275 0 10Vdc
V_V4         N01659 0 10Vdc
V_V5         N02013 0 0Vdc
M_M1         N07794 N07655 0 0 M2N7000
R_R12         N07794 N07758  5k  
R_R11         0 N05350  150  
R_R6         N01953 N02045  100  
R_R1         N07655 N07758  47k  
M_M5         N05516 N05556 N05350 N05350 M2N7000
M_M2         N01686 N01751 N01722 N01722 M2N7000
M_M14         N11317 N11363 N11349 N11349 M2N7000
R_R2         0 N07655  10.5k  
R_R7         0 N02776  123114  
V_V6         N01953 0 10Vdc
R_R3         0 N01722  100  
R_R8         N02776 N02715  100k  
R_R16         N11275 N11317  1k  
M_M3         N02045 N02013 N02089 N02089 M2N7000
R_R4         N01659 N01686  1k  
         X_D2 N05499 N05516 D1N5765 
R_R9         N03828 N02715  100  
R_R13         0 N07954  100meg  
R_R5         0 N02089  150  
R_R10         0 N02832  150  
V_V9         N05499 0 10Vdc
C_C2         N07794 N07954  10u   
V_V7         N02715 0 10Vdc
V_V8         N05556 0  
+PULSE +5 -5 0 1n 1n 5m 10m
V_V2         N07758 0 10Vdc
V_V1         N07578 0  
+SIN 0 10m 1k 0 0 0
R_R17         0 N11349  100  
V_V3         N01751 0 0Vdc
